US05506267
6-[N-(vinylsulfonyl)-N-(t-butyloxycarbonyl)amino]-hexanoylglutamic acid di-t-butyl ester
N-[6-(vinylsulfonylamino)hexanoyl]glutamic acid di-t-butyl ester as obtained in Reference Example 19 (660 mg, 1.3 mM) and di-t-butyl dicarbonate (425 mg, 1.94 mM) were dissolved in pyridine (3 ml), followed by stirring at room temperature for 1 hour. The reaction mixture was concentrated to dryness under reduced pressure; the residue was purified by silica gel column (7 g) (hexane-chloroform (1:1)) to yield the title compound (617 mg, yield 84.3%) as a colorless solid.

reactant | N-[6-(vinylsulfonylamino)hexanoyl]glutamic acid di-t-butyl ester | C(C)(C)(C)OC([C@@H](NC(CCCCCNS(=O)(=O)C=C)=O)CCC(=O)OC(C)(C)C)=O | C21H38N2O7S
reactant | di-t-butyl dicarbonate | 1.94 mM, 425 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 6-[N-(vinylsulfonyl)-N-(t-butyloxycarbonyl)amino]-hexanoylglutamic acid di-t-butyl ester | 617 mg, yield 84.3% | C(C)(C)(C)OC([C@@H](NC(CCCCCN(C(=O)OC(C)(C)C)S(=O)(=O)C=C)=O)CCC(=O)OC(C)(C)C)=O | C26H46N2O9S
